US08067607B2
Preparation of N-pyridin-3-ylpyridin-3-amine (1-1)
To a solution of 3-bromopyridine (4.75 gm, 30 mmol) and 3-aminopyridine (1.88 gm, 20 mmol) in dry toluene (8 mL) was added sodium t-butoxide (2.3 gm, 24 mmol), tris(dibenylideneacetone) dipalladium(0) (63 mg, 0.069 mmol), and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (XANTPHOS) (183 mg, 0.317 mmol). The vessel was capped with a septum, degassed (3×), and heated at 100 C for ˜24 hours. The cooled reaction was diluted with methylene chloride, washed with NaHCO3 solution, water, and the organic layer dried over anhydrous sodium sulfate, filtered and the solvent concentrated to a small volume. Upon addition of diethyl ether and a few drops of methanol the product precipitated. After stirring this mixture for ˜15 hours the purified product was isolated by filtration to give 2.89 gm (84% yield) of the title compound.

reactant | 3-bromopyridine | 30 mmol, 4.75 gm | BrC=1C=NC=CC1 | C5H4BrN
reactant | 3-aminopyridine | 20 mmol, 1.88 gm | NC=1C=NC=CC1 | C5H6N2
reactant | sodium t-butoxide | 24 mmol, 2.3 gm | CC(C)([O-])C.[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.317 mmol, 183 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | N-pyridin-3-ylpyridin-3-amine | 2.89 gm, 84% yield | N1=CC(=CC=C1)NC=1C=NC=CC1 | C10H9N3
